US06747023B1
1,4-Bis(tert-butoxycarbonyl)-2-[3-(thien-2-yl)propyl]piperazine
In methanol (70 ml) was dissolved 1,4-bis(tert-butoxycarbonyl)-2-[3-(thien-2-yl)-2-propenyl]piperazine (1.01 g). In the resulting solution was suspended 10% palladium-carbon (50% wet, 431 mg), followed by vigorous shaking at room temperature for 6 hours under a hydrogen gas atmosphere of 1 atmospheric pressure. The catalyst was filtered off and the filtrate was concentrated under reduced pressure. The residue was subjected to chromatography on a silica gel column (hexane:ethyl acetate=9:1 to 2:1), whereby the title compound (975 mg) was obtained as colorless powder.

reactant | 1,4-bis(tert-butoxycarbonyl)-2-[3-(thien-2-yl)-2-propenyl]piperazine | 1.01 g | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)CC=CC=1SC=CC1 | C21H32N2O4S
solvent | methanol | 70 ml | CO | CH4O
catalyst | palladium-carbon | 431 mg | [C].[Pd]
product | 1,4-Bis(tert-butoxycarbonyl)-2-[3-(thien-2-yl)propyl]piperazine | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)CCCC=1SC=CC1 | C21H34N2O4S
